US07981903B2
A solution of methyl 4-chloro-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-fluorobenzoate in methylene chloride (150 mL) and trifluoroacetic acid (25 mL) was stirred for six hours. All solvents were removed under reduced pressure on a rotoevaporator, and the resulting residue was dissolved in THF (150 mL) and water (100 mL) and lithium hydroxide (2.5 g) were added. The biphasic mixture was stirred rapidly for three days, at which time no starting materials remain by TLC. The organic layer was washed with 2.0N sodium hydroxide and then the organic layers are discarded. The aqueous layer was adjusted to pH=2 by careful addition of 1.0N hydrochloric acid and then extracted with ethyl acetate. The combined ethyl acetate washes were dried over sodium sulfate, and volatiles were removed under reduced pressure to afford 2-amino-4-chloro-6-fluorobenzoic acid as a white solid (3.3 g, 69% yield) of sufficient purity for use in the next transformation. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.38 (dd, J=11.17, 1.47 Hz, 1 H), 6.60 (s, 1 H).

reactant | methyl 4-chloro-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-fluorobenzoate | ClC1=CC(=C(C(=O)OC)C(=C1)F)NC(=O)OC(C)(C)C | C13H15ClFNO4
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-4-chloro-6-fluorobenzoic acid | 3.3 g, 69% yield | NC1=C(C(=O)O)C(=CC(=C1)Cl)F | C7H5ClFNO2
